US04447361
3-Hydroxy-N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine
The title compound is prepared by reacting 3-methoxy-N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine with hydrogen iodide and glacial acetic acid.

reactant | 3-methoxy-N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine | COC1=CC2=C(N(C3=C(C(=N2)C2=CC=CC=C2)C=CC=C3)CCCN(C)C)N=C1 | C24H26N4O
reactant | hydrogen iodide | I | HI
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Hydroxy-N,N-dimethyl-6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine | OC1=CC2=C(N(C3=C(C(=N2)C2=CC=CC=C2)C=CC=C3)CCCN(C)C)N=C1 | C23H24N4O
